Name:  ___         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
Chest pain, Dyspnea on exertion, headache, numbness/tingling 
hands/feet
 
Major Surgical or Invasive Procedure:
Cardiac Catheterization:
Coronary Description
The coronary circulation is right dominant.
LM: The Left Main, arising from the left cusp, is a large 
caliber vessel. This vessel bifurcates into the
Left Anterior Descending and Left Circumflex systems.
LAD: The Left Anterior Descending artery, which arises from the 
LM, is a large caliber vessel.
The Septal Perforator, arising from the proximal segment, is a 
small caliber vessel.
The Diagonal, arising from the proximal segment, is a medium 
caliber vessel.
Cx: The Circumflex artery, which arises from the LM, is a large 
caliber vessel.
The ___ Obtuse Marginal, arising from the proximal segment, is a 
medium caliber vessel.
The ___ Obtuse Marginal, arising from the mid segment, is a 
medium caliber vessel.
RCA: The Right Coronary Artery, arising from the right cusp, is 
a large caliber vessel.
The Acute Marginal, arising from the proximal segment, is a 
small caliber vessel.
The Right Posterior Descending Artery, arising from the distal 
segment, is a medium caliber vessel.
The Right Posterolateral Artery, arising from the distal 
segment, is a medium caliber vessel.
Name: ___ MRN: ___ Study Date: ___ 
18:26:33 p. ___
Interventional Details
Complications: There were no clinically significant 
complications.
Findings
• Normal left and right heart filling pressures.
• No angiographically apparent coronary artery disease.
Recommendations
• Maximize medical therapy

 
History of Present Illness:
Mr. ___ is a ___ male with history of hypertension,
hyperlipidemia presenting with not feeling well for 
approximately 2 weeks. He has low energy and wakes up with 
headaches daily and specifically the 2 days PTA has had nausea 
but no vomiting. He noted increased dyspnea on exertion while 
doing stairs which was new. He also noted numbness and tingling 
in his forearm to his wrist and hand and some tingling of his 
feet distal to his ankles. He also noted fleeting chest pain 
lasting seconds at a time. He has had hypertension for some time 
and has tried to manage it on his own hoping to avoid medication 
which had been recommended by his PCP on multiple occasions. He 
called his PCP and they recommended that he come to the ED for 
evaluation
 
Past Medical History:
1. CARDIAC RISK FACTORS 
- HTN
- HLD
2. CARDIAC HISTORY 
- Coronaries: No CAD ___ 
- Pump: EF 60%
- Sinus rhythm 
3. OTHER PAST MEDICAL HISTORY 
- Sleep apnea
- sciatica
- Multinodular Goiter
 
Social History:
___
Family History:
Father: history of congestive heart failure at age ___ and MI at
age ___
Mother: history of brain cancer and died at age ___
Brother: no known medical issues. 
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
======================
VS: Temp 98.6 BP 152/100 HR 70 RR ___ RA 
GENERAL: well appearing middle aged male lying in bed in no 
acute
pain or distress  
HEENT: Sclera anicteric. PERRL.Conjunctiva were pink. No pallor
or cyanosis of the oral mucosa.  
NECK: Supple. No JVP.  
CARDIAC: Regular rate and rhythm. Normal S1, S2. No murmurs,
rubs, or gallops. no thrills or lifts.  
LUNGS: No chest wall deformities or tenderness to palpation.
Respiration is unlabored with no accessory muscle use. trace
crackles at the right lower base which clear with coughing   
ABDOMEN: Soft, non-tender, non-distended. normal bowel sounds 
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: DP pulses palpable and symmetric. 

DISCHARGE PHYSICAL EXAMINATION: 
======================= 
VS: 97.9, 137/89-153/89, down to 130/85 at time of discharge 
after medications, HR 58-70, rr 18, 02 sat 95% RA
LABS: WBC 7.2, Hgb 16.4, Hct 47.2, Plts 259, Na 142, K+ 4.0, Ch 
101, Bicarb 24, Glucose 80, BUN 12, Creat 1.1, Ca 9.8, Phos 3.6, 
Mag 2.2, HA1C 4.8; TSH and Cholesterol panel pending 
WEIGHT: 123.8 kg (122.7kg admission weight)
I/O: 200/350cc
Tele: SR 60's, 7 second run of SVT at 5am 
GENERAL: well appearing middle aged male sitting in chair, no 
acute pain or distress 
HEENT: Sclera anicteric. PERRL.Conjunctiva were pink. No pallor
or cyanosis of the oral mucosa. 
NECK: Supple. No JVP. 
CARDIAC: Regular rate and rhythm. Normal S1, S2. No murmurs,
rubs, or gallops. 
LUNGS: Respiration is unlabored with no accessory muscle use. 
ABDOMEN: Soft, non-tender, non-distended. normal bowel sounds 
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema. 
SKIN: No significant skin lesions or rashes. 
PULSES: DP pulses palpable and symmetric. 
ACCESS: Right radial access site C,D,I with no hematoma, no 
bleeding or ecchymosis. +2 radial pulse. CSM WNL. 
 
Pertinent Results:
___: HEAD CT: FINDINGS:  
There is no evidence of infarction,hemorrhage,edema,or mass.  
The ventricles and sulci are age appropriate in size and 
configuration. 
Minimal soft tissue swelling is seen overlying the right 
parietal bone towards the vertex.  There is no evidence of 
fracture.  Minimal opacification of the left mastoid air cells 
are noted.  The visualized portion of the paranasal  sinuses, 
right mastoid air cells, and middle ear cavities are clear.  The 
 visualized portion of the orbits are unremarkable. 
IMPRESSION:  
No acute intracranial abnormality.  Specifically no evidence of 
large 
territorial infarct, hemorrhage, or mass. 
  
___: STRESS TEST: INTERPRETATION: ___ yo man with HL and 
HTN was referred to evaluate  his shortness of breath and 
dizziness. The patient completed 9.5 minutes  of ___ 
protocol representing an average exercise tolerance; ~ 10.5  
METS. Although the patient was near volitional fatigue, exercise 
was  stopped due to an exaggerated systolic blood pressure 
response to  exercise; peak exercise 249/90 mmHg. No chest, 
back, neck or arm  discomforts were reported. At peak exercise, 
1-2 mm horizontal  /downsloping ST segment depression was noted 
inferiorly and in leads  V3-V6. In addition, 0.5-1 mm ST segment 
elevation was noted in lead AVR.  These ST segment changes 
resolved quickly post-exercise and were absent 1 minute 
post-exercise. The rhythm was sinus with rare isolated APBs and  
VPBs. Resting systolic and diastolic hypertension with an 
exaggerated systolic blood pressure response to exercise.  
IMPPRESSION: Average exercise tolerance. Ischemic ST segment 
changes in 
the absence of anginal symptoms. Resting systolic hypertension 
with an 
exaggerated systolic blood pressure response to exercise. 

CARDIAC CATHETERIZATION: ___
Coronary Description
The coronary circulation is right dominant.
LM: The Left Main, arising from the left cusp, is a large 
caliber vessel. This vessel bifurcates into the
Left Anterior Descending and Left Circumflex systems.
LAD: The Left Anterior Descending artery, which arises from the 
LM, is a large caliber vessel.
The Septal Perforator, arising from the proximal segment, is a 
small caliber vessel.
The Diagonal, arising from the proximal segment, is a medium 
caliber vessel.
Cx: The Circumflex artery, which arises from the LM, is a large 
caliber vessel.
The ___ Obtuse Marginal, arising from the proximal segment, is a 
medium caliber vessel.
The ___ Obtuse Marginal, arising from the mid segment, is a 
medium caliber vessel.
RCA: The Right Coronary Artery, arising from the right cusp, is 
a large caliber vessel.
The Acute Marginal, arising from the proximal segment, is a 
small caliber vessel.
The Right Posterior Descending Artery, arising from the distal 
segment, is a medium caliber vessel.
The Right Posterolateral Artery, arising from the distal 
segment, is a medium caliber vessel.
Complications: There were no clinically significant 
complications.
Findings
• Normal left and right heart filling pressures.
• No angiographically apparent coronary artery disease.
Recommendations
• Maximize medical therapy. 

 
Brief Hospital Course:
Mr. ___ is a ___ year old male with a history of w/ HTN, HLD
who presents for tingling of his extremities, dyspnea, chest 
pain and ongoing headaches with negative head CT, negative 
troponins, abnormal stress EKG now s/p Coronary angiogram with 
no coronary disease, and noted hypertension. 

# HTN 
Patient with HTN not currently on treatment with BPs noted to be
as high as 180s while in the ED. Has been seen by PCP but 
patient
has been hesitant to start on any antihypertensive treatment. 
His
BP was elevated to the 200s during his stress test. This was 
likely the etiology of his vague symptoms of headache and nausea 
over the past few weeks. His BP is now down to 130/85 on day of 
discharge.
- Continue amlodipine 5mg
- Start Metoprolol Succinate 25mg daily 
- Blood pressure home monitoring: instructed to take BP ___ 
times daily at varying times of day and bring log to PCP 
___.
- Risk factor modification; heart healthy diet discussed; Low 
sodium diet discussed
- ___ with PCP within one week. Patient to call to 
schedule. 

# SVT/ectopy: short 7 second run of SVT to 130-140s, self 
limited and not requiring any treatment; per patient report he 
has worn halter montor in past and has known "abnormal and extra 
beats" and palpitations which are symptomatic and "take breath 
away" at times. No correlation to rest/activity. 
- Start metoprolol succinate 25mg daily to maximize HTN 
management as well as SVT

================ 
CHRONIC ISSUES: 
================ 

# OSA:
-Continue CPAP per home regimen
-Encourage compliance as discussed with patient at length to 
decrease cardiac risk factors

****TSH and Cholesterol panel results pending at time of 
discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY  
2.  Metoprolol Succinate XL 25 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hypertension

 
Discharge Condition:
OUTPATIENT CARDIOLOGIST: ___ MD 
PCP: ___ MD 
CHIEF COMPLAINT: dyspnea/chest pain/headaches 
 
HISTORY OF PRESENTING ILLNESS:  
 
Mr. ___ is a ___ male with history of hypertension, 

hyperlipidemia presenting with not feeling well for 
approximately 2 weeks. He has low energy and wakes up with 
headaches daily and specifically the 2 days PTA has had nausea 
but no vomiting. He noted increased dyspnea on exertion while 
doing stairs which was new. He also noted numbness and tingling 
in his forearm to his wrist and hand and some tingling of his 
feet distal to his ankles. He also noted fleeting chest pain 
lasting seconds at a time. He has had hypertension for some time 
and has tried to manage it on his own hoping to avoid medication 
which had been recommended by his PCP on multiple occasions. He 
called his PCP and they recommended that he come to the ED for 
evaluation.  
 
PAST MEDICAL HISTORY:  
=======================  
1. CARDIAC RISK FACTORS  
- HTN 
- HLD 
2. CARDIAC HISTORY  
- Coronaries: No CAD ___  
- Pump: EF 60% 
- Sinus rhythm  
3. OTHER PAST MEDICAL HISTORY  
- Sleep apnea 
- sciatica 
- Multinodular Goiter  
 
SOCIAL HISTORY: ___
FAMILY HISTORY:  
Father: history of congestive heart failure at age ___ and MI at 
age ___ 
Mother: history of brain cancer and died at age ___ 
Brother: no known medical issues.  
 
MEDICATIONS: 
Currently does not take any prescription medications at home. He 
occasionally takes Excedrin for headaches.  
 
ALLERGIES:  
Penicillins - he develops a rash  
 
EKG: sinus rhythm, normal axis, normal intervals, deep Q waves 
in 
III and AVF, J point elevation in V1-V2  
 
CXR: ___  
IMPRESSION:  
No acute cardiopulmonary process.  
 
CT Head: ___  
No acute intracranial abnormality. Specifically, no evidence of 
large territory infarct, hemorrhage, or masses. 
 
Unilateral Extremity Veins: ___  
No evidence of deep venous thrombosis in the right lower 
extremity veins.  
 
ECHOCARDIOGRAM: ___  
CONCLUSION: 
The left atrial volume index is mildly increased. The right 
atrium is mildly enlarged. There is normal left ventricular wall 

thickness with a normal cavity size corrected by BSA (63 ml/m2). 

There is normal regional left ventricular systolic function. 
Overall left ventricular systolic function is normal. 
Quantitative 3D volumetric left ventricular ejection fraction is 

60 %. Normal right ventricular cavity size with normal free wall 

motion. The aortic sinus diameter is normal for gender with 
normal ascending aorta diameter for gender. The aortic arch is 
mildly dilated. The aortic valve leaflets (3) appear 
structurally 
normal. There is no aortic valve stenosis. There is no aortic 
regurgitation. The mitral valve leaflets appear structurally 
normal with no mitral valve prolapse. There is trivial mitral 
regurgitation. The tricuspid valve leaflets appear structurally 
normal. There is trivial tricuspid regurgitation. The pulmonary 
artery systolic pressure could not be estimated. There is no 
pericardial effusion. 
IMPRESSION: No regional wall motion abnormalities to correlated 
with abnormal EKG findings. 
 
STRESS TEST: ___ 
IMPPRESSION: Average exercise tolerance. Ischemic ST segment 
changes in the absence of anginal symptoms. Resting systolic 
hypertension with an exaggerated systolic blood pressure 
response 
to exercise.  
 
Cardiac catheterization: ___ 
The coronary circulation is right dominant. 
LM: The Left Main, arising from the left cusp, is a large 
caliber vessel. This vessel bifurcates into the 
Left Anterior Descending and Left Circumflex systems. 
LAD: The Left Anterior Descending artery, which arises from the 
LM, is a large caliber vessel. 
The Septal Perforator, arising from the proximal segment, is a 
small caliber vessel. 
The Diagonal, arising from the proximal segment, is a medium 
caliber vessel. 
Cx: The Circumflex artery, which arises from the LM, is a large 
caliber vessel. 
The ___ Obtuse Marginal, arising from the proximal segment, is a 
medium caliber vessel. 
The ___ Obtuse Marginal, arising from the mid segment, is a 
medium caliber vessel. 
RCA: The Right Coronary Artery, arising from the right cusp, is 
a large caliber vessel. 
The Acute Marginal, arising from the proximal segment, is a 
small caliber vessel. 
The Right Posterior Descending Artery, arising from the distal 
segment, is a medium caliber vessel. 
The Right Posterolateral Artery, arising from the distal 
segment, is a medium caliber vessel. 
Complications: There were no clinically significant 
complications. 
Findings 
• Normal left and right heart filling pressures. 
• No angiographically apparent coronary artery disease. 
Recommendations 
• Maximize medical therapy 
 
PHYSICAL EXAMINATION:  
=======================  
VS: 97.9, 137/89-153/89, down to 130/85 at time of discharge 
after medications, HR 58-70, rr 18, 02 sat 95% RA 
LABS: WBC 7.2, Hgb 16.4, Hct 47.2, Plts 259, Na 142, K+ 4.0, Ch 
101, Bicarb 24, Glucose 80, BUN 12, Creat 1.1, Ca 9.8, Phos 3.6, 
Mag 2.2, HA1C 4.8; TSH and Cholesterol panel pending  
WEIGHT: 123.8 kg (122.7kg admission weight) 
I/O: 200/350cc 
Tele: SR 60's, 7 second run of SVT at 5am  
 
GENERAL: well appearing middle aged male sitting in chair, no 
acute pain or distress  
HEENT: Sclera anicteric. PERRL.Conjunctiva were pink. No pallor 
or cyanosis of the oral mucosa.  
NECK: Supple. No JVP.  
CARDIAC: Regular rate and rhythm. Normal S1, S2. No murmurs, 
rubs, or gallops.  
LUNGS: Respiration is unlabored with no accessory muscle use.  
ABDOMEN: Soft, non-tender, non-distended. normal bowel sounds  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: DP pulses palpable and symmetric.  
ACCESS: Right radial access site C,D,I with no hematoma, no 
bleeding or ecchymosis. +2 radial pulse. CSM WNL.  
 
=====================  
ASSESSMENT AND PLAN:  
=====================  
 
Mr. ___ is a ___ year old male with a history of w/ HTN, HLD 

who presents for tingling of his extremities, dyspnea, chest 
pain and ongoing headaches with negative head CT, negative 
troponins, abnormal stress EKG now s/p Coronary angiogram with 
no coronary disease, and noted hypertension.  
 
# HTN  
Patient with HTN not currently on treatment with BPs noted to be 

as high as 180s while in the ED. Has been seen by PCP but 
patient 
has been hesitant to start on any antihypertensive treatment. 
His 
BP was elevated to the 200s during his stress test. This 
was likely the etiology of his vague symptoms of headache and 
nausea over the past few weeks. His BP is now down to 130/85 on 
day of discharge. 
- Continue amlodipine 5mg 
- Start Metoprolol Succinate 25mg daily  
- Blood pressure home monitoring: instructed to take BP ___ 
times daily at varying times of day and bring log to PCP 
___. 
- Risk factor modification; heart healthy diet discussed; Low 
sodium diet discussed 
- ___ with PCP within one week. Patient to call to 
schedule.  
 
# SVT/ectopy: short 7 second run of SVT to 130-140s, self 
limited and not requiring any treatment; per patient report he 
has worn halter montor in past and has known "abnormal and extra 
beats" and palpitations which are symptomatic and "take breath 
away" at times. No correlation to rest/activity.  
- Start metoprolol succinate 25mg daily to maximize HTN 
management as well as SVT 
 
================  
CHRONIC ISSUES:  
================  
 
# OSA: 
-Continue CPAP per home regimen 
-Encourage compliance as discussed with patient at length to 
decrease cardiac risk factors 
 
 
**** Above plan reviewed and discussed with Dr. ___. All 
questions answered to Mr. ___ satisfaction as well his 
wife who was present during discharge instructions.  

 
Discharge Instructions:
You were admitted to ___ with complaints of headaches, 
shortness of breath, chest pain and numbness/tingling of 
hands/feet. You underwent multiple tests including head Cat Scan 
(CT SCAN), Echocardiogram (ultrasound of heart), stress test, 
cardiac catheterization and multiple blood tests. The above 
testing was normal and did not require any treatment.

Your blood pressure was noted to be elevated and we recommend 
medical treatment. Uncontrolled/untreated elevated blood 
pressure may be contributing to your symptoms and also places 
you at high risk of stroke.

We recommend you start the following medications:
1. Amlodipine 5mg daily in the morning
2. Metoprolol Succinate 25mg once daily in evening. 

Amlodipine is to lower your blood pressure. Metoprolol will also 
lower your blood pressure, as well as hopefully decrease the 
amount of "abnormal beats" and symptomatic palpitations that you 
have. (You were noted to have seven seconds of a fast heart rate 
called supraventricular tachycardia or SVT that was seen on the 
telemetry/cardiac monitor. You did not require treatment or 
intervention at the time. You reportedly felt "palpitations" at 
that time.) 

Restrictions and care of your right radial access site from your 
cardiac catheterization procedure have been provided.

We also recommend strict compliance with your sleep apnea 
treatment. Maximizing your sleep apnea treatment will decrease 
your cardiac risk factors. 

You will ___ with your PCP within one week. We recommend 
monitoring and charting your blood pressures at home once-twice 
daily at varying times of day for the next few weeks. Please 
bring your blood pressure log with you to your PCP ___. Your 
thyroid and cholesterol blood work was pending at time of 
discharge. Please review results with PCP at ___ 
appointment and address need for treatment if abnormal. 

If you have any urgent questions that are related to your 
recovery from your medical issues or are experiencing any 
symptoms that are concerning to you and you think you may need 
to return to the hospital, please call the ___ HeartLine at 
___ to speak to a cardiologist or cardiac nurse 
practitioner. It has been a pleasure to have participated in 
your care and we wish you the ___ with your health!  

Your ___ Cardiac Care Team  
 
Followup Instructions:
___